US07846929B2
Step B: Preparation of 4-chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole:
To a 1 L flask with mechanical stirrer was added 4-chloro-1H-indazole (75.0 g, 0.492 mol), pyridinium p-toluenesulfonate (1.24 g, 4.92 mmol), CH2Cl2 (500 ml) and 3,4-dihydro-2H-pyran (98.6 ml, 1.08 mol). With stirring, this mixture was heated to 45° C. for 16 hours. Analysis of reaction mixture shows production of both isomers of product. Cooled reaction to 25° C. and added CH2Cl2 (200 ml). Washed the solution with water (300 ml) and saturated NaHCO3 (250 ml). Dried the organics with MgSO4 and concentrated to dryness. Purified the crude product by dissolving in EtOAc/Hexanes (4:6, 1 L) and adding SiO2 (1.2 L). The mixture was filtered and the cake was washed with EtOAc/Hexanes (4:6, 2 L). The organics were concentrated in vacuo to yield 110.2 g (95%) as an orange solid. Isomer 1: 1H NMR (400 MHz, CDCl3) δ 8.10 (d, J=1 Hz, 1H), 7.50 (dd, J=9 Hz, 1 Hz 1H), 7.29 (dd, J=9 Hz, 8 Hz 1H), 7.15 (dd, J=8 Hz, 1 Hz 1H) 5.71 (dd, J=9 Hz, 3 Hz 1H) 4.02 (m, 1H) 3.55 (m, 1H) 2.51 (m, 1H) 2.02 (m, 2H) 1.55 (m, 3H). LCMS (ESI pos) m/e 237 (M+1); Isomer 2: 1H NMR (400 MHz, CDCl3) δ 8.25 (d, J=1 Hz, 1H), 7.62 (dd, J=9 Hz, 1 Hz 1H), 7.20 (dd, J=9 Hz, 8 Hz 1H), 7.06 (dd, J=8 Hz, 1 Hz 1H) 5.69 (dd, J=9 Hz, 3 Hz 1H) 4.15 (m, 1H) 3.80 (m, 1H) 2.22 (m, 2H) 2.05 (m, 1H) 1.75 (m, 3H). LCMS (ESI pos) m/e 237 (M+1).

reactant | 4-chloro-1H-indazole | 0.492 mol, 75.0 g | ClC1=C2C=NNC2=CC=C1 | C7H5ClN2
reactant | pyridinium p-toluenesulfonate | 4.92 mmol, 1.24 g | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | 3,4-dihydro-2H-pyran | 1.08 mol, 98.6 ml | O1CCCC=C1 | C5H8O
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 500 ml | C(Cl)Cl | CH2Cl2
product | 4-chloro-1-(tetrahydro-2H-pyran-2-yl)-1H-indazole | ClC1=C2C=NN(C2=CC=C1)C1OCCCC1 | C12H13ClN2O
